US04060528
To a stirred mixture of 26.7 parts of p-ethylbenzoyl chloride, 13.3 parts of thiophene in 80 parts of methylene chloride are added 41.1 parts of stannic chloride in 40 parts of methylene chloride at 30° C. Upon completion, stirring is continued for 3h.30 at reflux temperature. The reaction mixture is poured onto a mixture of crushed ice and hydrochloric acid. The layers are separated and the aqueous phase is extracted with methylene chloride. The combined organic layers are washed with water, dried, filtered and evaporated. The residue is evaporated once more from benzene. The latter residue is distilled, yielding p-ethylphenyl 2-thienyl ketone; bp. 200-205° C at 12 mm, pressure.

reactant | p-ethylbenzoyl chloride | C(C)C1=CC=C(C(=O)Cl)C=C1 | C9H9ClO
reactant | thiophene | S1C=CC=C1 | C4H4S
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | p-ethylphenyl 2-thienyl ketone | S1C(=CC=C1)C(=O)C1=CC=C(C=C1)CC | C13H12OS
